US04992576
5-[3-(Ethoxycarbonyl)benzoyl]-2-methoxybenzenepropanoic acid, ethyl ester
Following the procedure of Example 1, 30.6 g of isophthalic acid monoethyl ester monochloride and 30 g of ethyl 2-methoxybenzene propanoate were treated with 57 g of aluminum chloride in dichloromethane to provide 53.6 g of the desired title product, as an oil.

reactant | isophthalic acid monoethyl ester monochloride | 30.6 g | [Cl-].C(C)OC(C1=CC(C(=O)O)=CC=C1)=O
reactant | ethyl 2-methoxybenzene propanoate | 30 g | COC1=C(C=CC=C1)CCC(=O)OCC | C12H16O3
reactant | aluminum chloride | 57 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | dichloromethane | ClCCl | CH2Cl2
product | 5-[3-(Ethoxycarbonyl)benzoyl]-2-methoxybenzenepropanoic acid, ethyl ester | 53.6 g | C(C)OC(=O)C=1C=C(C(=O)C=2C=CC(=C(C2)CCC(=O)OCC)OC)C=CC1 | C22H24O6
